US09314464B2
To a solution of Intermediate (S)-methyl 1-azidopropan-2-ylcarbamate (2.86 g, 18.2 mmol) in ethyl acetate (200 ml) was added 10% palladium on carbon (wet, 286 mg). The flask was degassed and refilled with hydrogen gas (balloon, 1 atmosphere), and the mixture was stirred at rt for 16 hours. The reaction mixture was filtered through a pad of celite and washed with ethyl acetate. The filtrate was concentrated to give crude (S)-methyl 1-aminopropan-2-ylcarbamate, which was used without further purification. 1H NMR 400 MHz (CDCl3) δ 4.79 (s, 1H), 3.71-3.65 (m, 1H), 3.66 (s, 3H), 2.75 (dd, 1H), 2.65 (dd, 1H), 1.14 (d, 3H); MS m/z 133.1 (M+1).

reactant | (S)-methyl 1-azidopropan-2-ylcarbamate | 18.2 mmol, 2.86 g | N(=[N+]=[N-])C[C@H](C)NC(OC)=O | C5H10N4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 286 mg | [Pd] | Pd
product | (S)-methyl 1-aminopropan-2-ylcarbamate | NC[C@H](C)NC(OC)=O | C5H12N2O2
